US05739351
17 cm3 of a 7N solution of hydrogen chloride in dioxane is added at room temperature to a solution of 3.35 g of (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)-2-tert-butyloxycarbonylperhydroisoindol-4-ol in 35 cm3 of dioxane. The reaction mixture is stirred at this temperature for 2 hours, then concentrated to dryness under reduced pressure (2.7 kPa). Trituration in diisopropyl ether gives 2.77 g of (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(]2-fluorophenyl)perhydroisoindol-4-ol in the form of a thick white foam.

reactant | hydrogen chloride | Cl | ClH
reactant | (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)-2-tert-butyloxycarbonylperhydroisoindol-4-ol | 3.35 g | OCC1CC(C2CN(CC2C1)C(=O)OC(C)(C)C)(O)C1=C(C=CC=C1)F | C20H28FNO4
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 35 cm3 | O1CCOCC1 | C4H8O2
product | perhydroisoindol-4-ol | C1NCC2C(CCCC12)O | C8H15NO
